US04593102
4-[(4-Chlorophenyl)sulfonyl]piperidine Monohydrochloride
A mixture of 10.14 g (0.0246 mole) of 4-[(4-chlorophenyl)sulfonyl]-1-[(4-methylphenyl)sulfonyl]piperidine and 40 ml of phenol in 120 ml of 48% hydrobromic acid was refluxed for one hr and quenched in 800 ml of water. The mixture was made basic with 50% sodium hydroxide and then extracted with methylene chloride. The methylene chloride extract was dried over magnesium sulfate and the volume was reduced to 200 ml in vacuo. Excess ethereal hydrogen chloride was added to give a white precipitate, the hydrochloride salt. Recrystallization of the salt from methanol-diethyl ether gave 3.80 g (52.0%) of a crystalline solid, m.p. 280°-281.5° C. with decomposition. An additional 0.77 g (10.6%) of product was obtained from the filtrate.

reactant | 4-[(4-chlorophenyl)sulfonyl]-1-[(4-methylphenyl)sulfonyl]piperidine | 0.0246 mole, 10.14 g | ClC1=CC=C(C=C1)S(=O)(=O)C1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C | C18H20ClNO4S2
reactant | phenol | 40 ml | C1(=CC=CC=C1)O | C6H6O
solvent | hydrobromic acid | 120 ml | Br | BrH
product | 4-[(4-Chlorophenyl)sulfonyl]piperidine Monohydrochloride | 3.80 g, 52.0% | Cl.ClC1=CC=C(C=C1)S(=O)(=O)C1CCNCC1 | InChI=1S/C11H14ClNO2S.ClH/c12-9-1-3-10(4-2-9)16(14,15)11-5-7-13-8-6-11;/h1-4,11,13H,5-8H2;1H
